US04459403
To a solution of 0.7 g (0.005 mole) of 6H-1,2,4-oxadiazin-3(2H)-one-5(4H)-thione in 10 ml of dry freshly distilled dioxane is added 0.44 g (0.0052 mole) of piperidine. After stirring for 17 hours at room temperature, the solution is filtered, washed with chloroform and dried to give a yield of 0.49 g (54 percent) of 5-(1-piperidinyl)-6H-1,2,4-oxadiazin-3(2H)-one.

reactant | 6H-1,2,4-oxadiazin-3(2H)-one-5(4H)-thione | 0.005 mole, 0.7 g | O1NC(NC(C1)=S)=O | C3H4N2O2S
reactant | piperidine | 0.0052 mole, 0.44 g | N1CCCCC1 | C5H11N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(1-piperidinyl)-6H-1,2,4-oxadiazin-3(2H)-one | yield of 0.49 g, 54 percent | N1(CCCCC1)C1=NC(NOC1)=O | C8H13N3O2
